US09102671B2
A mixture of (3R,5R)-1-(3-(bis(4-methoxybenzyl)carbamoyl)pyrazolo[1,5-a]pyridin-5-yl)-5-(3-fluorophenyl)pyrrolidin-3-yl methanesulfonate (I-34) (0.17 g, 0.26 mmol), potassium cyanide (20 mg, 0.31 mmol) and DMSO (anhyd, 1 mL) was heated at 90° C. for 3 hours. After cooling, the reaction mixture was partitioned in EtOAc and water. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to dryness. The residue was purified by silica chromatography eluting with an EtOAc/Hex gradient to yield 5-((2R,4S)-4-cyano-2-(3-fluorophenyl)pyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide (I-35). 1H NMR (400 MHz, CDCl3) δ 8.15-8.11 (m, 1 H), 7.80 (s, 1 H), 7.37-7.28 (m, 1 H), 7.22-7.15 (m, 5 H), 7.02-6.93 (m, 2 H), 6.93-6.86 (m, 5 H), 6.15 (dd, J=2.7, 7.7 Hz, 1H), 5.08 (dd, J=2.6, 7.9 Hz, 1 H), 4.72 (d, J=15.7 Hz, 2 H), 4.54 (d, J=15.8 Hz, 2 H), 4.20-4.14 (m, 1 H), 3.91-3.83 (m, 1 H), 3.82 (s, 6 H), 3.37-3.24 (m, 1 H), 2.82 (ddd, J=8.1, 10.1, 12.4 Hz, 1 H), 2.41 (ddd, J=2.8, 6.4, 12.4 Hz, 1 H). MS m/z 590.2 (M+1)+

reactant | (3R,5R)-1-(3-(bis(4-methoxybenzyl)carbamoyl)pyrazolo[1,5-a]pyridin-5-yl)-5-(3-fluorophenyl)pyrrolidin-3-yl methanesulfonate | 0.26 mmol, 0.17 g | CS(=O)(=O)O[C@H]1CN([C@H](C1)C1=CC(=CC=C1)F)C1=CC=2N(C=C1)N=CC2C(N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)=O | C35H35FN4O6S
reactant | potassium cyanide | 0.31 mmol, 20 mg | [C-]#N.[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 5-((2R,4S)-4-cyano-2-(3-fluorophenyl)pyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide | C(#N)[C@H]1C[C@@H](N(C1)C1=CC=2N(C=C1)N=CC2C(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)C2=CC(=CC=C2)F | C35H32FN5O3
